US08349886B2
ethyl 2-(4-iodo-1H-pyrazolo[3,4-b]pyridin-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate
A mixture of 4-iodo-1H-pyrazolo[3,4-b]pyridine (1.72 g), a 1:1 mixture (3.1 g) of ethyl 2-bromo-3-(tetrahydro-2H-pyran-4-yl)propanoate and ethyl 3-(tetrahydro-2H-pyran-4-yl)-2-propenoate, potassium carbonate (1.0 g) and N,N-dimethylformamide (15 mL) was stirred overnight at room temperature. To the reaction mixture was added aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (1.6 g, yield 53%) as a colorless oil from the fraction eluted with ethyl acetate-hexane (35:75, volume ratio). MS: 430 (MH+).

reactant | 4-iodo-1H-pyrazolo[3,4-b]pyridine | 1.72 g | IC1=C2C(=NC=C1)NN=C2 | C6H4IN3
reactant | ethyl 2-bromo-3-(tetrahydro-2H-pyran-4-yl)propanoate | 3.1 g | BrC(C(=O)OCC)CC1CCOCC1 | C10H17BrO3
reactant | ethyl 3-(tetrahydro-2H-pyran-4-yl)-2-propenoate | O1CCC(CC1)C=CC(=O)OCC | C10H16O3
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(4-iodo-1H-pyrazolo[3,4-b]pyridin-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate | 1.6 g, yield 53% | IC1=C2C(=NC=C1)N(N=C2)C(C(=O)OCC)CC2CCOCC2 | C16H20IN3O3
